US08053453B2
1-(1-(3,4-Dimethylphenyl)-5-hydroxy-3-trifluoromethyl-1H-pyrazol-4-yl)-ethanone (0.189 mmol, 56.5 mg) and 4-methoxycarbonylbenzhydrazide (0.189 mmol, 36.8 mg) were stirred in DMF at 100° C. for 2.2 hours and at 120° C. for 17 hours. After the solvent was removed by evaporation, the residue was resolved by silica gel thin layer chromatography (CHCl3/MeOH=10/1) to obtain 4-methoxycarbonylbenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide as a yellow solid (55.6 mg, 62%)

reactant | 1-(1-(3,4-Dimethylphenyl)-5-hydroxy-3-trifluoromethyl-1H-pyrazol-4-yl)-ethanone | 0.189 mmol, 56.5 mg | CC=1C=C(C=CC1C)N1N=C(C(=C1O)C(C)=O)C(F)(F)F | C14H13F3N2O2
reactant | 4-methoxycarbonylbenzhydrazide | 0.189 mmol, 36.8 mg | COC(=O)C1=CC=C(C(=O)NN)C=C1 | C9H10N2O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-methoxycarbonylbenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-trifluoromethyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 55.6 mg, 62% | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=C(C)NNC(C1=CC=C(C=C1)C(=O)OC)=O)C(F)(F)F | C23H21F3N4O4
